US05612338
A solution of 10.3 g (37.5 mmol) of methyl (4-benzyloxy-1,3-dimethylpyrazol-5-yl)acetate in 200 ml of methanol is hydrogenated in the presence of 1 g of 10% Pd/C. When the reaction is complete, the reaction mixture is filtered and the filtrate is concentrated under vacuum. The residue is recrystallised from dichloromethane/n-hexane, giving methyl (1,3-dimethyl-4-hydroxypyrazol-5-yl)acetate; m.p. 119°-120° C.

reactant | methyl (4-benzyloxy-1,3-dimethylpyrazol-5-yl)acetate | 37.5 mmol, 10.3 g | C(C1=CC=CC=C1)OC=1C(=NN(C1CC(=O)OC)C)C | C15H18N2O3
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | methyl (1,3-dimethyl-4-hydroxypyrazol-5-yl)acetate | CN1N=C(C(=C1CC(=O)OC)O)C | C8H12N2O3
